US07435823B2
Step (c) Preparation of 5-fluoro-6-hydroxy-1-naphthoic acid
Sodium hydroxide (116 g, 2.9 mol) was dissolved in 100 mL water and added to a solution of methyl 5-fluoro-6-hydroxy-1-naphthoate (8.56 g, 38.9 mmol) in methanol (200 mL). The mixture was refluxed at 80° C. for 2 h. The mixture was allowed to cool to RT, then poured into 6N HCl in ice. The pH was adjusted to 3 to give a fine purple/pink solid. The title compound was isolated by centrifuge (with some salts).

reactant | Sodium hydroxide | 2.9 mol, 116 g | [OH-].[Na+]
reactant | methyl 5-fluoro-6-hydroxy-1-naphthoate | 38.9 mmol, 8.56 g | FC1=C2C=CC=C(C2=CC=C1O)C(=O)OC | C12H9FO3
reactant | HCl | 6N | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 5-fluoro-6-hydroxy-1-naphthoic acid | FC1=C2C=CC=C(C2=CC=C1O)C(=O)O | C11H7FO3
